US06147216
Step g: 4-[4-[4-(Hydroxydiphenylmethyl)-1-piperidinyl]-1-oxobutyl]-α,α-dimethylbenzeneacetic Acid Hydrochloride
Dissolve 4-[4-[4-(hydroxydiphenylmethyl)-1-piperidinyl]-1-oxobutyl]-α,α-dimethylbenzeneacetic acid methyl ester (0.131 mol) in methanol (2.5 L) and add 10% sodium hydroxide (769 mL, 1.92 mol). Stir at reflux for 1.5 hours, cool to 68° C. and evaporate the solvent in vacuo to a residue. Add chloroform (1 L) and stir until the solids are dissolved. Separate the organic phase and extract the aqueous phase with chloroform (3×300 mL). Combine the organic phases, dry (MgSO4) and evaporate the solvent in vacuo to give a residue. Treat the residue with ethereal HCl, filter and dry to give the title compound.

reactant | 4-[4-[4-(hydroxydiphenylmethyl)-1-piperidinyl]-1-oxobutyl]-α,α-dimethylbenzeneacetic acid methyl ester | 0.131 mol | COC(C(C1=CC=C(C=C1)C(CCCN1CCC(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)O)=O)(C)C)=O | C33H39NO4
reactant | sodium hydroxide | 1.92 mol, 769 mL | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | methanol | 2.5 L | CO | CH4O
product | 4-[4-[4-(Hydroxydiphenylmethyl)-1-piperidinyl]-1-oxobutyl]-α,α-dimethylbenzeneacetic Acid Hydrochloride | Cl.OC(C1CCN(CC1)CCCC(=O)C1=CC=C(C=C1)C(C(=O)O)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C32H37NO4.ClH/c1-31(2,30(35)36)25-17-15-24(16-18-25)29(34)14-9-21-33-22-19-28(20-23-33)32(37,26-10-5-3-6-11-26)27-12-7-4-8-13-27;/h3-8,10-13,15-18,28,37H,9,14,19-23H2,1-2H3,(H,35,36);1H
